### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limit/IsConnected): categories with initial/terminal objects are connected

### PR DESCRIPTION
**Pull request by robin-carlier**
Record the fact that a category with an initial or a terminal object is connected.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 1]
```diff
@@ -137,4 +137,49 @@ theorem isConnected_iff_of_initial (F : C ⥤ D) [F.Initial] : IsConnected C ↔
...
+
+/-- Prove that a category is connected by supplying an explicit terminal object. -/
+lemma isConnected_of_isTerminal {x : C} (h : Limits.IsTerminal x) : IsConnected C := by
+  letI : Nonempty C := ⟨x⟩
+  apply isConnected_of_zigzag
+  intro j₁ j₂
+  use [x, j₂]
+  simp only [List.chain_cons, List.Chain.nil, and_true, ne_eq, reduceCtorEq, not_false_eq_true,
+    List.getLast_cons, List.cons_ne_self, List.getLast_singleton]
+  exact ⟨Zag.of_hom <| h.from _, Zag.symm <| Zag.of_hom <| h.from _⟩
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/IsConnected.lean:181]: Let's prove these two first, then the `Has` versions should just be one line using [`terminalIsTerminal`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Shapes/Terminal.html#CategoryTheory.Limits.terminalIsTerminal)

**Review by b-mehta — APPROVED** [review]

File: Mathlib/CategoryTheory/Limits/IsConnected.lean (hunk 1 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean:162]: right, I had put the `has` version first when coding it, but it make much more sense!

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 2]
```diff
@@ -137,4 +137,37 @@ theorem isConnected_iff_of_initial (F : C ⥤ D) [F.Initial] : IsConnected C ↔
...
+
+-- note : it seems making the following two as instances breaks things, so these are lemmas.
+lemma isConnected_of_hasInitial [Limits.HasInitial C] : IsConnected C :=
+  isConnected_of_isInitial C (Limits.initialIsInitial)
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/IsConnected.lean:166]:
```suggestion
  isConnected_of_isInitial C Limits.initialIsInitial
```
and similar below

**Review by b-mehta — APPROVED** [review]
Thanks!

bors merge

File: Mathlib/CategoryTheory/Limits/IsConnected.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean:166]: My addiction to parentheses again... I was a bit too late to see it, sorry. I made #23443 with the fix.
